US09388189B2
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-ethoxypyridin-3-yl)-4-hydroxybenzenesulfonamide
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (54 mg, 0.12 mmol) was treated with N-(2-ethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-hydroxybenzenesulfonamide (116 mg, 0.18 mmol), sodium carbonate (30 mg, 0.28 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (32 mg, 0.04 mmol) according to the method described in Example 3 to give 22 mg (27% yield) of the title compound. Purity 100%. LRMS (m/z): 654 (M+1)+. 1H NMR (400 MHz, CD3OD δ 7.88 (m, 1H), 7.79 (s, 1H), 7.71 (s, 1H), 7.65-7.42 (m, 7H), 7.38 (dd, J=7.6, 1.2 Hz, 2H), 6.76 (d, J=8.8 Hz, 2H), 6.33 (m, 1H), 4.23 (q, J=6.9 Hz, 2H), 2.42 (s, 3H), 1.30 (d, J=6.8 Hz, 3H), 1.25 (t, J=7.1 Hz, 3H).

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.12 mmol, 54 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | N-(2-ethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-hydroxybenzenesulfonamide | 0.18 mmol, 116 mg | C(C)OC1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)O)B1OC(C(O1)(C)C)(C)C | C19H25BN2O6S
reactant | sodium carbonate | 0.28 mmol, 30 mg | C([O-])([O-])=O.[Na+].[Na+]
product | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-ethoxypyridin-3-yl)-4-hydroxybenzenesulfonamide | 22 mg, 27% yield | NC1=NC=NC(=C1C=1C=C(C(=NC1)OCC)NS(=O)(=O)C1=CC=C(C=C1)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C32H31N9O5S
